US04495196
4,5-Bis(4-fluorophenyl)-α-(trifluoromethyl)-1H-pyrrole-2-methanol
A mixture of 2.55 g (0.01 mole) of 2,3-bis(4-fluorophenyl)-1H-pyrrole and 1.3 g (0.011 mole) of trifluoroacetaldehyde hydrate in 75 ml toluene was heated at reflux for 3.5 hours. The mixture was concentrated on a rotary evaporator. The residue was purified by chromatography on silica gel to give 1.9 g of product, m.p. 121°-122°.

reactant | 2,3-bis(4-fluorophenyl)-1H-pyrrole | 0.01 mole, 2.55 g | FC1=CC=C(C=C1)C=1NC=CC1C1=CC=C(C=C1)F | C16H11F2N
reactant | trifluoroacetaldehyde hydrate | 0.011 mole, 1.3 g | O.FC(C=O)(F)F
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-Bis(4-fluorophenyl)-α-(trifluoromethyl)-1H-pyrrole-2-methanol | 1.9 g | FC1=CC=C(C=C1)C=1C=C(NC1C1=CC=C(C=C1)F)C(O)C(F)(F)F | C18H12F5NO
